US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
A mixture of 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (140 mg, 0.5 mmol) and 2-aminopyridine (47 mg, 0.5 mmol) in ethanol (3.1 mL) was heated under reflux under argon for 3.5 h. Then another portion of 2-aminopyridine (24 mg, 0.25 mmol) was added and heating under reflux continued for another 1 h. The resulting mixture was then cooled to room temperature and then sodium hydrogen carbonate (63 mg, 0.75 mmol) added and the resulting mixture heated under reflux for 2 h. After cooling to room temperature, the mixture was poured onto water and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate and evaporated to leave a yellow oil. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound (76 mg, 55%) which was obtained as a light yellow gum. MS: m/e=276.0 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-aminopyridine | 0.5 mmol, 47 mg | NC1=NC=CC=C1 | C5H6N2
reactant | 2-aminopyridine | 0.25 mmol, 24 mg | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydrogen carbonate | 0.75 mmol, 63 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 3.1 mL | C(C)O | C2H6O
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 76 mg, 55% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC=C2)C1 | C17H13N3O
